US07378409B2
Trans-4-aminocyclohexanol hydrochloride (5.0 g, 33 mmol) was dissolved in 1,4-dioxane (100 mL), and the resulting solution was cooled to 0° C., charged with NaOH (40 mL of a 1 N aq. Solution), stirred for 15 min, and then charged with Boc2O (7.9 g, 36 mmol, pre-dissolved in 65 mL of 1,4-dioxane) before being stirred at RT for 14 h. The reaction was neutralized with 1 N HCl and extracted with EtOAc. The organic phase was washed successively with 1 N HCl, H2O, and brine before being dried (Na2SO4), filtered, and concentrated in vacuo to afford (trans-4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester (7.0 g, 100% yield). MS found: (M+H)+=216.15.

reactant | Trans-4-aminocyclohexanol hydrochloride | 33 mmol, 5.0 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | NaOH | [OH-].[Na+]
reactant | Boc2O | 36 mmol, 65 mL, 7.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (trans-4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | 7.0 g, 100% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)O)=O | C11H21NO3
